US07019137B2
(R)-4-(2,3-Dihydro-1,4-benzodioxin-5-yl)-β-methyl-1-piperazineethanol
A free base of bis(2-chloroethyl)amine (28.4 g; 0.2 mol) is liberated from its hydrochloride salt as described in Example IV and mixed with a solution of (S)-2-[(methylsulfonyl)oxy] propionate (20 g; 0.08 mol) in chlorobenzene (150 mL). The mixture is stirred for 3 hours at room temperature, and the resulting thick slurry is washed with water (100 mL) and 10% sodium bicarbonate (100 mL). The organic phase is transferred to a flask containing 2,3-dihydro-1,4-benzodioxin-5-amine (9.6 g; 0.064 mol) and the reaction mixture is allowed to reflux upon stirring for 18 hours. A small amount of yellow precipitate appears. The mixture is cooled to room temperature and agitated with 10% aqueous sodium bicarbonate (55 mL) for 1 hour. The organic layer is separated, dried over sodium sulfate, filtered, and concentra-ted in vacuo. The residue is dissolved in tetrahydrofuran (50 mL) and added dropwise to a stirred suspension of lithium aluminum hydride (9.1 g; 0.24 mol) in tetrahydrofuran (50 mL). The mixture is heated to 40° C. for 90 minutes, cooled, and decomposed by dropwise addition of ethyl acetate (200 mL). The product is then extracted with 2N hydrochloric acid (500 mL), the aqueous portion is washed three times with ethyl acetate (150 mL) and rendered basic with 10N sodium hydroxide to re-extract the product with ethyl acetate (2×200 mL). The combined extracts are washed with brine, dried over sodium sulfate, filtered and evaporated in vacuo. The residual oil crystallizes upon standing, and in TLC analysis (ethyl acetate-hexane 3:2) co-spots with the alcohol of Example III. Spectroscopic data and enantiomeric purity are identical to those presented in Example II. Overall yield 9.1 g (51%) based on 2,3-dihydro-1,4-benzodioxin-5-amine.

reactant | bis(2-chloroethyl)amine | 0.2 mol, 28.4 g | ClCCNCCCl | C4H9Cl2N
reactant | 2,3-dihydro-1,4-benzodioxin-5-amine | 0.064 mol, 9.6 g | O1CCOC2=C1C=CC=C2N | C8H9NO2
reactant | sodium bicarbonate | 55 mL | C([O-])(O)=O.[Na+]
reactant | lithium aluminum hydride | 0.24 mol, 9.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | chlorobenzene | 150 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (R)-4-(2,3-Dihydro-1,4-benzodioxin-5-yl)-β-methyl-1-piperazineethanol | O1CCOC2=C1C=CC=C2N2CCN(CC2)[C@@H](CO)C | C15H22N2O3
